US06121274
E4: Methyl 4-methoxy-3-(4-methylenetetrahydropyran-3-yloxy)benzoate
18.2 g of methyltriphenylphosphonium bromide are suspended in 200 ml of dimethoxyethane under a nitrogen atmosphere and 1.5 g of sodium hydride (80% in paraffin) are then added in portions. The mixture is stirred at RT for 3 h and a solution of 13 g of methyl 4-methoxy-3-(4-oxotetrahydropyran-3-yloxy)benzoate are then added dropwise in the course of 30 min. The mixture is stirred overnight, then poured onto water and extracted 3 times with ethyl acetate. After drying over sodium sulfate, the organic phase is concentrated in vacuo and the residue is chromatographed on a silica gel column using ethyl acetate/petroleum ether 4:6. The chromatographically pure fractions are combined, concentrated and dried in a high vacuum. 3.6 g of the title compound are obtained as a pale yellow oil.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | methyl 4-methoxy-3-(4-oxotetrahydropyran-3-yloxy)benzoate | 13 g | COC1=C(C=C(C(=O)OC)C=C1)OC1COCCC1=O | C14H16O6
reactant | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
catalyst | methyltriphenylphosphonium bromide | 18.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 4-methoxy-3-(4-methylenetetrahydropyran-3-yloxy)benzoate | 3.6 g | COC1=C(C=C(C(=O)OC)C=C1)OC1COCCC1=C | C15H18O5
